US04377522
8 g (0.026 mol) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one are stirred at room temperature for 1 hour with 5 g of α-aminoisobutyric acid chloride hydrochloride in 30 ml of tetrahydrofuran, 8 g of potassium carbonate are subsequently added thereto and, after a further 15 minutes, the mixture is treated with methylene chloride and water. The organic phase is separated and the aqueous phase is extracted four times with methylene chloride. The combined organic extracts are dried and evaporated. The residue is purified on 350 g of silica gel with methylene chloride/ethyl acetate (1:1) and ethyl acetate as the elution agent. From ethyl acetate/ether there is obtained 2-amino-N-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-2-methylpropionamide of melting point 250°.

reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.026 mol, 8 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1 | C18H18FN3O
reactant | α-aminoisobutyric acid chloride hydrochloride | 5 g | Cl.NC(C(=O)Cl)(C)C
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-amino-N-[5-(o-fluorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-2-methylpropionamide | NC(C(=O)NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1)(C)C | C22H25FN4O2
